US04410520
To a solution of 2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one (2.5 g) in chloroform (30 ml), phosphorus pentachloride (3.2 g) was added in portions, while maintaining the temperature at 0°-5°. When the addition was complete, iodine (30 mg) was added followed by bromine (2.5 g), which was added dropwise over 5 minutes. The mixture was then refluxed for 4 hours. The chloroform solution was evaporated and the residue was partitioned between ice-water (30 ml) and dichloromethane (75 ml). The organic phase was dried over magnesium sulfate and evaporated under reduced pressure. The crude residue was purified by chromatography over silica gel, eluting with ether and hexane (7:3). Concentration of the appropriate fractions yielded 3-bromo-2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one, m.p. 146°-148°.

reactant | 2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one | 2.5 g | N1C(CCCC2=C1C=CC=C2)=O | C10H11NO
reactant | phosphorus pentachloride | 3.2 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | iodine | 30 mg | II | I2
reactant | bromine | 2.5 g | BrBr | Br2
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-bromo-2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one | BrC1C(NC2=C(CC1)C=CC=C2)=O | C10H10BrNO
